US06750230B2
Ethyl 2-(3,5-dichlorobenzyl)-3-oxobutanoate
Sodium metal (1.01 g, 44 mmol) was added to ethanol (100 ml) and stirred until all the metal had dissolved. Ethylacetoacetate (15.6 g, 111 mmol) was added and the reaction mixture was stirred under a nitrogen atmosphere for 10 minutes. 3,5-dichlorobenzyl chloride (7.24 g, 40 mmol) was added and the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was filtered and the solution was concentrated under reduced pressure. The orange oil was purified by flash chromatography on silica gel eluting with pentane followed by pentane:ethyl acetate (30:1, by volume) to afford the title compound as a colourless oil (6.4 g).

reactant | Sodium | 44 mmol, 1.01 g | [Na] | Na
reactant | Ethylacetoacetate | 111 mmol, 15.6 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | 3,5-dichlorobenzyl chloride | 40 mmol, 7.24 g | ClC=1C=C(CCl)C=C(C1)Cl | C7H5Cl3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 2-(3,5-dichlorobenzyl)-3-oxobutanoate | 6.4 g | ClC=1C=C(CC(C(=O)OCC)C(C)=O)C=C(C1)Cl | C13H14Cl2O3
